US08536197B2
(239a) Ethyl 2-(4-aminopiperidin-1-yl)-4-methyl-1,3-thiazole-5-carboxylate
The same operation as in Example (237a) was performed using 4-aminopiperidine (0.19 mL, 1.80 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (300 mg, 1.20 mmol) and diisopropylethylamine (0.42 mL, 2.40 mmol), to obtain 283 mg of the title compound as a pale yellow oily substance (88%).

reactant | 4-aminopiperidine | 1.80 mmol, 0.19 mL | NC1CCNCC1 | C5H12N2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 1.20 mmol, 300 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 2.40 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 2-(4-aminopiperidin-1-yl)-4-methyl-1,3-thiazole-5-carboxylate | 283 mg | NC1CCN(CC1)C=1SC(=C(N1)C)C(=O)OCC | C12H19N3O2S
